US08003656B2
E. 4-[9-Methyl-6-oxo-2-(2,3,4-trifluorophenoxy)-6,9-dihydro-1H-purin-1-yl]benzonitrile (Compound 5)
1-(4-Bromophenyl)-9-methyl-2-(2,3,4-trifluorophenoxy)-1,9-dihydro-6H-purin-6-one (68 mg, 0.1507 mmol), Zn(CN)2 (10.6 mg, 0.0904 mmol), Pd2(dba)3 (4.1 mg, 0.0045 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (5.0 mg, 0.0090 mmol) are added to DMF (1.2 mL) and H2O (0.012 mL). The mixture is purged with N2 for 3 min and then heated at 120° C. for 18 h. The mixture is passed through celite. Water (30 mL) is added and the resulting mixture is extracted with CH2Cl2 (50 mL×4). After drying the CH2Cl2 over MgSO4, the solvent is removed in vacuo. The crude product is purified by column chromatography (MeOH:CH2Cl2=2:98) to afford the title compound as a brown solid. 1H NMR (400 MHz, CDCl3) 7.86 (2H, d, J 8), 7.65 (1H, s), 7.53 (2 h, d, J 8), 6.95 (2H, m), 3.59 (3H, s). MS (M+1): 398.03; RT=1.22 min.

reactant | 1-(4-Bromophenyl)-9-methyl-2-(2,3,4-trifluorophenoxy)-1,9-dihydro-6H-purin-6-one | 0.1507 mmol, 68 mg | BrC1=CC=C(C=C1)N1C(=NC=2N(C=NC2C1=O)C)OC1=C(C(=C(C=C1)F)F)F | C18H10BrF3N4O2
reactant | DMF | 1.2 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.0904 mmol, 10.6 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.0045 mmol, 4.1 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.0090 mmol, 5.0 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | H2O | 0.012 mL | O | H2O
product | 4-[9-Methyl-6-oxo-2-(2,3,4-trifluorophenoxy)-6,9-dihydro-1H-purin-1-yl]benzonitrile | CN1C=2N=C(N(C(C2N=C1)=O)C1=CC=C(C#N)C=C1)OC1=C(C(=C(C=C1)F)F)F | C19H10F3N5O2
